US07030141B2
Step 2: (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
(2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.5 g, 6.5 mmol) was dissolved in 20 mL DMF, added imidazole (1.1 g, 16 mmol), dimethylaminopyridine (80 mg, 0.65 mmol), and tert-butyldimethylsilyl chloride (1.08 g, 7.1 mmol). Stirred at ambient temperature overnight, dissolved in 150 mL EtOAc, washed with 10% citric acid (3×100 mL), water (2×100 mL), brine, dried with MgSO4, filtered, and concentrated. Redissolved in 50 mL CHCl3 and reconcentrated to yield title compound as a clear oil. (1.54 g, 69%) APCI (AP−): 344.2 (M−H)−.

reactant | (2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 6.5 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C10H17NO5
reactant | imidazole | 16 mmol, 1.1 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 0.65 mmol, 80 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tert-butyldimethylsilyl chloride | 7.1 mmol, 1.08 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C16H31NO5Si
